US05057517
To 15 g of BOC-piperazine (80.6 mmol) dissolved in acetone (50 ml) was added in alternating portions benzylchloroformate (11.5 ml, 80.6 mmol) and 1N NaOH (15 ml) keeping the pH at 8-8.5 and the temperature 0°-5° C. After 2 hours, starting material was still present (tlc) and an additional quantity of benzylchloroformate (5 ml) and 1N NaOH (5 ml) was added. The reaction mixture was aged at 5° C. overnight and at room temperature an additional 7 hours. Water was added and the mixture extracted with ethyl acetate (3×50 ml), dried with Na2SO4 and concentrated to 21 g of an oil. This oil was dissolved in 10 ml of ethyl acetate, passed through 40 ml of silica gel and eluted with 200 ml of ethylacetate. Crystallization was effected by trituration with petroleum ether and the crystals collected, affording 8.28 g (32%) of N-t-butoxycarbonyl-N'-benzyloxycarbonylpiperazine, m.p. 90.5°-91.5° C.

reactant | BOC-piperazine | 80.6 mmol, 15 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | benzylchloroformate | 80.6 mmol, 11.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | NaOH | 1N, 15 ml | [OH-].[Na+]
reactant | benzylchloroformate | 5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-t-butoxycarbonyl-N'-benzyloxycarbonylpiperazine | 8.28 g, 32% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H24N2O4
